US08236319B2
4-(Acetylthio)-1-methoxy-1-oxobutane-2-sulfonic acid
5.0 g (19.2 mmol) of 4-bromo-1-methoxy-1-oxobutane-2-sulfonic acid in 100 ml of THF was added 3.0 ml of thioacetic acid and 9.0 ml of DIPEA in 100 ml of THF. The mixture was stirred overnight then refluxed at 70° C. for 1 hr, evaporated and co-evaporated with 3×100 ml of water after being neutralized to pH 7 with NaHCO3. The mixture was redissolved in methanol, filtered through celite, concentrated and purified with SiO2 chromatography eluted with CH3OH/CH2Cl2/HCOOH 37.5:250:1 to 50:250:1) to afford 4.4 g (90% yield) of the title compound. 1H NMR (D2O) 3.95 (dd, 1H, J=4.1, 10.3 Hz), 3.83 (s, 3H), 3.74 (m, 2H), 3.22 (dd, 2H, J=7.4, 14.9 Hz), 2.39 (s, 3H); 13C NMR 203.88, 172.91, 67.32, 56.17, 29.04, 20.61; MS m/z−254.8 (M−H)

reactant | 4-bromo-1-methoxy-1-oxobutane-2-sulfonic acid | 19.2 mmol, 5.0 g | BrCCC(C(=O)OC)S(=O)(=O)O | C5H9BrO5S
reactant | thioacetic acid | 3.0 ml | C(C)(=S)O | C2H4OS
reactant | DIPEA | 9.0 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(Acetylthio)-1-methoxy-1-oxobutane-2-sulfonic acid | 4.4 g, 90% yield | C(C)(=O)SCCC(C(=O)OC)S(=O)(=O)O | C7H12O6S2
